US05684017
5,7-Dichloro-2-[2-(t-butoxycarbonylamino)benzoyl]-4-[benzenesulfonylimino]-1,4-dihydroquinoline
Combine 5,7-dichloro-2-[2-(t-butoxycarbonylamino) benzoyl]-1,4-dihydroquinol-4-one (2 mmol) and benzenesulfonyl isocyanate (2.2 mmol) in acetonitrile (9 mL) and heat at reflux for 48 hours. Add methanol (5 mL) to quench the reaction. Evaporate in vacuo to obtain a residue. Chromatograph the residue on a column of silica gel to give the title compound.

reactant | 5,7-dichloro-2-[2-(t-butoxycarbonylamino) benzoyl]-1,4-dihydroquinol-4-one | 2 mmol | ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(C1=C(C=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C21H18Cl2N2O4
reactant | benzenesulfonyl isocyanate | 2.2 mmol | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
solvent | acetonitrile | 9 mL | C(C)#N | C2H3N
product | 5,7-Dichloro-2-[2-(t-butoxycarbonylamino)benzoyl]-4-[benzenesulfonylimino]-1,4-dihydroquinoline | ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(C1=C(C=CC=C1)NC(=O)OC(C)(C)C)=O)=NS(=O)(=O)C1=CC=CC=C1 | C27H23Cl2N3O5S
